US05614544
A mixture of methyl (E)-4-[2-(5-methyl-4-phenyl-2-thiazolyl)vinyl]benzoate (9.5 g), palladium-carbon (5%, 1.0 g) and dioxane (70 ml)-methanol (60 ml) was subjected to catalytic hydrogenation at 1 atm and room temperature. After the catalyst was filtered off, the filtrate was concentrated under reduced pressure to yield methyl 4-[2-(5-methyl-4-phenyl-2thiazolyl)ethyl]benzoate (9.0 g, 94%), which was then recrystallized from hexane to yield colorless plates having a melting point of 52°-53° C.

reactant | methyl (E)-4-[2-(5-methyl-4-phenyl-2-thiazolyl)vinyl]benzoate | 9.5 g | CC1=C(N=C(S1)/C=C/C1=CC=C(C(=O)OC)C=C1)C1=CC=CC=C1 | C20H17NO2S
reactant | dioxane | 70 ml | O1CCOCC1 | C4H8O2
catalyst | palladium-carbon | 1.0 g | [C].[Pd]
solvent | methanol | 60 ml | CO | CH4O
product | methyl 4-[2-(5-methyl-4-phenyl-2thiazolyl)ethyl]benzoate | 9.0 g, 94% | CC1=C(N=C(S1)CCC1=CC=C(C(=O)OC)C=C1)C1=CC=CC=C1 | C20H19NO2S
